US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-cyclopropylmethyl ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and cyclopropylmethanol according to the procedure of Example 30 as a white solid (HCl salt); 1H NMR (CDCl3) δ 0.33 (m, 4H), 0.61 (m, 4H), 1.21, (m, 2H), 1.32 (bs, 3H), 2.80 (m, 1H), 3.19 (m, 2H), 3.48 (m, 2H), 4.15 (d, J=7.3 Hz, 4H), 5.50 (bd, 1H), 5.70 (bs, 1H), 6.80 (m, 3H), 7.25 (m, 2H), 7.45 (s, 1H), 8.70 (bs, 1H), 10.10 (bs, 1 H); IR (KBr): 1757, 1778 cm-1 (C=O); MS (ES) m/z 530 (MH+); [α]D25 -26° (c, 1.0, CHCl3). Anal. Calcd. for C28H32ClNO7 ·HCl: C, 59.37; H, 5.69; N, 2.47; Cl, 12.53. Found: C, 59.19; H, 5.88; N, 2.29; Cl, 12.87.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | cyclopropylmethanol | C1(CC1)CO | C4H8O
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-cyclopropylmethyl ester | C1(CC1)COC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCC2CC2 | C28H32ClNO7
